US07812251B2
(c) 2-Bromo-4-nonadecylpyridine (3)
Powdered 2-amino-4-nonadecylpyridine (110.6 g, 0.31 mol) was added under vigorous stirring in portions to 48% hydrobromic acid (500 mL) at 20 to 30° C. in a 4-L glass reactor. After all of the compound was dissolved, the mixture was cooled at −20° C. To this suspension was added cooled bromine (44.3 mL, 0.86 mol) dropwise over 30 min, maintaining the temperature at −20° C. The resulting paste was stirred for 90 min at this temperature. Then sodium nitrite (56.6 g, 0.82 mol) in water (250 mL) was added dropwise. After that the reaction mixture was allowed to warm to 15° C. over 1 h and was stirred for an additional 45 min. The mixture was cooled to −20° C. and treated with cooled aqueous NaOH (222 g, 330 mL H2O). During the addition the temperature was kept at −10° C. maximum. The mixture was allowed to warm to room temperature and stirred for 1 h. The mixture was extracted with ethyl acetate, the organic phase was dried with Na2SO4, and the solvent was removed in vacuo. The residue was subjected to distillation in vacuo to yield the desired. Yield 50%. Anal. Calcd for C24H42BrN: C, 67.90; H, 9.97; N, 3.30. Found: C, 67.50; H, 9.87; N, 3.40. MS (ESIMS): m/z: 423.3.

reactant | 2-amino-4-nonadecylpyridine | 0.31 mol, 110.6 g | NC1=NC=CC(=C1)CCCCCCCCCCCCCCCCCCC | C24H44N2
reactant | hydrobromic acid | 500 mL | Br | BrH
reactant | bromine | 0.86 mol, 44.3 mL | BrBr | Br2
reactant | sodium nitrite | 0.82 mol, 56.6 g | N(=O)[O-].[Na+]
reactant | NaOH | 330 mL, 222 g | [OH-].[Na+]
solvent | water | 250 mL | O | H2O
product | 2-Bromo-4-nonadecylpyridine | Yield 50% | BrC1=NC=CC(=C1)CCCCCCCCCCCCCCCCCCC | C24H42BrN
